US07390835B2
3-(1(S)-(4-Chlorobenzyl)-2(S)-((1-phenyl-2-methanesulfonylethyl)amino)propyl)benzonitrile
The title compound was prepared from 3-(4-chlorophenyl)-2(S)(3-cyanophenyl)-1(S)-methyl-propylamine hydrochloride and 2-methanesulfonylacetophenone by the procedure of Example 33 as a mixture of two diastereomers. LC-MS: m/e=467 (M+1), 469 (M+3) (3.05 min and 4.05 min).

reactant | 3-(4-chlorophenyl)-2(S)(3-cyanophenyl)-1(S)-methyl-propylamine hydrochloride | Cl.ClC1=CC=C(C=C1)C[C@H]([C@H](C)N)C1=CC(=CC=C1)C#N
reactant | 2-methanesulfonylacetophenone | CS(=O)(=O)CC(=O)C1=CC=CC=C1 | C9H10O3S
product | 3-(1(S)-(4-Chlorobenzyl)-2(S)-((1-phenyl-2-methanesulfonylethyl)amino)propyl)benzonitrile | ClC1=CC=C(C[C@H]([C@H](C)NC(CS(=O)(=O)C)C2=CC=CC=C2)C=2C=C(C#N)C=CC2)C=C1 | C26H27ClN2O2S
